US06339099B1
To a suspension of 4-fluoro-3-cyanophenylhydrazine tin chloride (20 g, 53.6 mmol) in ethanol (150 mL) was added 1,1,1-trifluoro-2,4-pentanedione (8.18 g, 53.6 mmol). The reaction was brought to reflux overnight. The next day the ethanol was evaporated and the residue partitioned between ethyl acetate and HCl (1 N). The aqueous phase was extracted with ethyl acetate (4×20 mL). The organic phase is washed with water, brine, dried over sodium sulfate, filtered and concentrated. Flash chromatography gave 1-(4-fluoro-3-cyanophenyl)-3-trifluoromethyl-5-methylpyrazole (8 g, 56% yield) as pure compound: MS (CI): 270 (M+H)+(100%).

reactant | 4-fluoro-3-cyanophenylhydrazine tin chloride | 53.6 mmol, 20 g | [Sn](Cl)(Cl)(Cl)Cl.FC1=C(C=C(C=C1)NN)C#N
reactant | 1,1,1-trifluoro-2,4-pentanedione | 53.6 mmol, 8.18 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-(4-fluoro-3-cyanophenyl)-3-trifluoromethyl-5-methylpyrazole | 8 g, 56% yield | FC1=C(C=C(C=C1)N1N=C(C=C1C)C(F)(F)F)C#N | C12H7F4N3
